US09062092B2
Compound 58d. (S)-1-[(S)-2-((S)-2-{(E)-(S)-4-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To a solution of (E)-(S)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid (176 mg, 0.34 mmol) in dichloromethane (2 mL), was added (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (205 mg, 0.47 mmol), 4-dimethylaminopyridine (116 mg, 0.95 mmol), N,N-diisopropylethylamine (123 mg, 0.95 mmol) and 2-methyl-6-nitrobenzoic anhydride (164 mg, 0.47 mmol). The reaction mixture was stirred at room temperature for 18 h, was then treated with saturated solution of sodium hydrogen carbonate, extracted with dichloromethane (2×) and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated. The crude residue was purified by silica gel chromatography using a Biotage KP-Sil 50 g cartridge eluting with a gradient of iso-hexanes/ethyl acetate 9:1 to 0:1 to give the title product (0.22 g, 78%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 0.85-1.10 (m, 6H), 1.20-1.70 (m, 23H), 2.05-2.20 (m, 1H), 2.30-2.45 (m, 1H), 3.44 (s, 3H), 3.60-3.95 (m, 4H), 4.15-4.32 (m, 1H), 4.68-4.70 (m, 1H), 4.90-5.05 (m, 2H), 5.20-5.45 (m, 1H), 6.10-6.28 (m, 1H), 6.60-6.85 (m, 2H), 7.10-7.20 (m, 1H), 7.28 (d, J=8.4 Hz, 1H), 7.66-7.74 (m, 2H), 8.00 (d, J=4.0 Hz, 1H), 8.05 (d, J=8.4 Hz, 1H). LCMS (m/z) 828.5 [M+H], Tr=3.48 min.

reactant | (E)-(S)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid | 0.34 mmol, 176 mg | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/[C@@](C(=O)O)(C)COC | C23H30N2O5
reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.47 mmol, 205 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)(Cl)Cl | C15H24Cl3N3O5
reactant | N,N-diisopropylethylamine | 0.95 mmol, 123 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-6-nitrobenzoic anhydride | 0.47 mmol, 164 mg | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.95 mmol, 116 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-1-[(S)-2-((S)-2-{(E)-(S)-4-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.22 g, 78% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC([C@](\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C)(C)COC)=O)=O)=O)(Cl)Cl | C38H52Cl3N5O9
